US05118675
Following the procedure of Example 1, condensation of 1,4-dibromo-2,3-butanedione with 1,2-diamino-4,5-dichlorobenzene yielded 2,3-bis(bromomethyl)-6,7-dichloro-quinoxaline, m.p. 154°-156° C.; 1H NMR (CDCl3, 200 MHz): δ4.86 (s, 4H, CH2), 8.18 (s, 2H, ArH).

reactant | 1,4-dibromo-2,3-butanedione | BrCC(C(CBr)=O)=O | C4H4Br2O2
reactant | 1,2-diamino-4,5-dichlorobenzene | NC1=C(C=C(C(=C1)Cl)Cl)N | C6H6Cl2N2
product | 2,3-bis(bromomethyl)-6,7-dichloro-quinoxaline | BrCC1=NC2=CC(=C(C=C2N=C1CBr)Cl)Cl | C10H6Br2Cl2N2
